US07989454B2
Step 3 5-Benzyloxy-3′-fluoro-biphenyl-3-carboxylic acid tert-butyl ester
To a solution of 5-benzyloxy-3′-fluoro-biphenyl-3-carboxylic acid (3.8 g) in toluene (80 mL) was added N,N-dimethylformamide di-tert-butyl acetal (30 mL) and the reaction mixture was stirred at 85° C. for 3 h. Then the reaction mixture was diluted with ethyl acetate, washed with water and brine. The organic extract was concentrated under reduced pressure and purified in a silica gel column using ethyl acetate and hexanes to yield the title compound (4.1 g, 92% yield)

reactant | 5-benzyloxy-3′-fluoro-biphenyl-3-carboxylic acid | 3.8 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C1=CC(=CC=C1)F)C(=O)O | C20H15FO3
reactant | N,N-dimethylformamide di-tert-butyl acetal | 30 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Benzyloxy-3′-fluoro-biphenyl-3-carboxylic acid tert-butyl ester | 4.1 g, 92% yield | C(C)(C)(C)OC(=O)C=1C=C(C=C(C1)OCC1=CC=CC=C1)C1=CC(=CC=C1)F | C24H23FO3
